US07737145B2
A solution of hexahydro-1-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine (150 mg, 0.506 mmol) and methyl 3-bromopropanoate (0.22 mL, 2.0 mmol) in THF (6 mL) was treated with triethylamine (0.28 mL, 2 mmol) and the reaction was heated at reflux for 4 hours. The reaction was allowed to cool and treated with an aqueous bicarbonate solution. The combined ethyl acetate extracts were washed with water, dried and concentrated to give 0.1 g of methyl hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoate; 1H NMR (300 MHz, CDCl3) δ 7.44 (d, 2H), 7.39 (dd, 2H), 7.32 (dd, 1H), 7.24 (d, 2H), 6.93 (d, 2H), 5.05 (s, 2H), 3.67 (s, 3H), 3.56 (s, 2H), 2.85 (t, 2H), 2.48 (t, 2H), 2.77-2.58 (m, 8H), 1.77 (m, 2H) ppm.

reactant | hexahydro-1-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine | 0.506 mmol, 150 mg | C1(=CC=CC=C1)COC1=CC=C(C=C1)CN1CCNCCC1 | C19H24N2O
reactant | methyl 3-bromopropanoate | 2.0 mmol, 0.22 mL | BrCCC(=O)OC | C4H7BrO2
reactant | triethylamine | 2 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | bicarbonate | C([O-])(O)=O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | methyl hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoate | 0.1 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)CN1CCN(CCC1)CCC(=O)OC | C23H30N2O3
